US07423159B2
A mixture of 4-(4-fluorophenyl)-1,2,3-thiadiazole-5-carbaldehyde (180 mg), ethyl diethylphosphonoacetate (450 mg), sodium hydride (60% in oil, 40 mg) and N,N-dimethylformamide (3 ml) was stirred at room temperature for 2 hrs. The reaction mixture was poured into a 1N aqueous hydrochloric acid solution and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated, and a 6N aqueous hydrochloric acid solution (3 ml) and acetic acid (3 ml) were added to the residue. The mixture was stirred for 3 hrs. with heating under reflux. The reaction mixture was concentrated and poured into water. The precipitated solids were collected by filtration, washed with water and dried to give (2E)-3-[4-(4-fluorophenyl)-1,2,3-thiadiazol-5-yl]acrylic acid (130 mg, yield 60%) as a pale-yellow solid.

reactant | 4-(4-fluorophenyl)-1,2,3-thiadiazole-5-carbaldehyde | 180 mg | FC1=CC=C(C=C1)C=1N=NSC1C=O | C9H5FN2OS
reactant | ethyl diethylphosphonoacetate | 450 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (2E)-3-[4-(4-fluorophenyl)-1,2,3-thiadiazol-5-yl]acrylic acid | 130 mg, yield 60% | FC1=CC=C(C=C1)C=1N=NSC1/C=C/C(=O)O | C11H7FN2O2S
